US05885997
4-[2-[2-Ethyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]aniline
A solution of 4-[2-[2-ethyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]nitrobenzene (1.0 g, 3.3 mmol) (obtained from preparation 20) in 1,4-dioxane (20 ml) was reduced with hydrogen in the presence of 10% palladium on charcoal (100 mg) at 30 psi for 16 h. The mixture was filtered through a bed of celite and washed with dioxane and evaporated to dryness under reduced pressure to yield the title compound (625 mg, 70%).

reactant | 4-[2-[2-ethyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]nitrobenzene | 3.3 mmol, 1.0 g | C(C)C=1N(C(C=C(N1)C)=O)CCOC1=CC=C(C=C1)[N+](=O)[O-] | C15H17N3O4
reactant | hydrogen | [H][H] | H2
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
product | 4-[2-[2-Ethyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]aniline | 625 mg, 70% | C(C)C=1N(C(C=C(N1)C)=O)CCOC1=CC=C(N)C=C1 | C15H19N3O2
